US06521643B1
To a suspension of 2-amino-4-methyl-5-(4-methylpyridin-2-yl)-thiazole (410 mg) and potassium carbonate (415 mg) in N,N-dimethylformamide (10 ml) was added dimethyl N-cyanodithioimino-carbonate (292 mg), and the mixture was stirred at 100° C. for 1 hour. The mixture was poured into a saturated aqueous solution of ammonium chloride. Then the precipitate was collected by filtration, purified by column chromatography (silica gel 30 g, 0 to 3% methanol in dichloromethane) and recrystallized from 2-propanol to give N-cyano-N′-(4-methyl-5-(4-methylpyridin-2-yl) thiazol-2-yl)-S-methylisothiourea (0.08 g).

reactant | 2-amino-4-methyl-5-(4-methylpyridin-2-yl)-thiazole | 410 mg | NC=1SC(=C(N1)C)C1=NC=CC(=C1)C | C10H11N3S
reactant | potassium carbonate | 415 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-cyano-N′-(4-methyl-5-(4-methylpyridin-2-yl) thiazol-2-yl)-S-methylisothiourea | 0.08 g | C(#N)NC(SC)=NC=1SC(=C(N1)C)C1=NC=CC(=C1)C | C13H13N5S2
